US04207234
1-[1-(2,2,2-Trichloroethoxycarbonylamino)-2-methylpropyl]-3-(2-phenylacetamido)-2-azetidinone (1.13 g.) was dissolved in a 90% acetic acid aqueous solution (20 ml.), and the solution was cooled to 5° C. (Zinc powder (1.62 g.) was added dropwise to said solution in 5 minutes, and the mixture was stirred for 30 minutes. Furthermore, zinc powder (1.62 g.) was added to said mixture, and the mixture was stirred for 2 days. The reaction mixture was neutralized with a sodium bicarbonate aqueous solution, and extracted with methylene chloride. The extract was washed with water and dried over anhydrous magnesium sulfate, and then the solvent was distilled off from the solution. The residue (0.65 g.) was subjected to preparative thin layer chromatography using silica.gel [developing solvent; a mixed solvent of ethyl acetate, ethyl methyl ketone, water and formic acid (volume ratio 5:3:1:1)], isolated and purified to give 3-(2-phenylacetamido)-2-azetidinone (0.3 g.). Mp 190° to 192° C.

reactant | 1-[1-(2,2,2-Trichloroethoxycarbonylamino)-2-methylpropyl]-3-(2-phenylacetamido)-2-azetidinone | 1.13 g | ClC(COC(=O)NC(C(C)C)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O)(Cl)Cl | C18H22Cl3N3O4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 1.62 g | [Zn] | Zn
catalyst | zinc | 1.62 g | [Zn] | Zn
product | 3-(2-phenylacetamido)-2-azetidinone | 0.3 g | C1(=CC=CC=C1)CC(=O)NC1C(NC1)=O | C11H12N2O2
